US07566784B2
B) tert-Butyl 4-aminopicolinate
A mixture of tert-butyl 4-chloropicolinate (3.8 g, 17.8 mmol) and sodium azide (1.74 g, 26.8 mmol) in DMSO (20 mL) was heated at 130° C. for 15 h. The mixture was poured into water (80 mL), extracted three times with EtOAc. The combined organic solutions was dried over MgSO4. The solid was filtered off, and the filtrate was concentrated in vacuo to give a residue which was heated with PPh3 in THF/H2O (9:1,40 mL) at 70° C. overnight. The mixture was diluted with EtOAc, washed with sat. K2HPO4 aq. solution. The organic layer was dried over MgSO4 and the product was purified by flash column chromatography (SiO2, 5% MeOH in EtOAc) to afford a white solid (1.8 g, 52%). LC-MS: m/z 195 (M+H)+.

reactant | tert-butyl 4-chloropicolinate | 17.8 mmol, 3.8 g | ClC1=CC(=NC=C1)C(=O)OC(C)(C)C | C10H12ClNO2
reactant | sodium azide | 26.8 mmol, 1.74 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 80 mL | O | H2O
reactant | PPh3 | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | THF H2O | 1,40 mL | C1CCOC1.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl 4-aminopicolinate | 1.8 g, 52% | NC1=CC(=NC=C1)C(=O)OC(C)(C)C | C10H14N2O2
